US03984467
Following a procedure similar to that described in Example 42 and using 3.4 g. sodium in 350 ml. dry acetone, 24.7 g. heptanamidine hydrochloride, and 30.4 g. 3-(trifluoromethyl)phenyl isothiocyanate [b.p. 50°-52°C./0.05-0.08 mm.; prepared from 3-(trifluoromethyl)aniline] in 150 ml. dry acetone there was obtained 1-[3-(trifluoromethyl)phenyl]-3-(heptanimidoyl)-2-thiourea, m.p. 105°-107°C. (from benzene-n-hexane); hydrochloride (34.4 g.), m.p. 154°-155°C. (from acetonitrile).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | heptanamidine hydrochloride | Cl.C(CCCCCC)(=N)N
reactant | 3-(trifluoromethyl)phenyl isothiocyanate | FC(C=1C=C(C=CC1)N=C=S)(F)F | C8H4F3NS
solvent | benzene n-hexane | C1=CC=CC=C1.CCCCCC
product | 1-[3-(trifluoromethyl)phenyl]-3-(heptanimidoyl)-2-thiourea | FC(C=1C=C(C=CC1)NC(=S)NC(CCCCCC)=N)(F)F | C15H20F3N3S
